US05519034
Methyl iodide (15 ml) was added to a solution of 7-benzyloxy-1-[1-(2-chlorophenyl)cyclopentyl]-6-methoxy-3,4-dihydroisoquinoline (13 g, prepared as described in Example CA34) in acetonitrile (100 ml). The mixture was heated under reflux for 24 hours, cooled and the resulting solid collected by filtration. The solid was washed with ether and dried in air to give 7-benzyloxy-1-[1-(2-chlorophenyl)cyclopentyl]-6-methoxy-2-methyl-3,4-dihydroisoquinolinium iodide (10 g).

reactant | Methyl iodide | 15 ml | CI | CH3I
reactant | 7-benzyloxy-1-[1-(2-chlorophenyl)cyclopentyl]-6-methoxy-3,4-dihydroisoquinoline | 13 g | C(C1=CC=CC=C1)OC1=C(C=C2CCN=C(C2=C1)C1(CCCC1)C1=C(C=CC=C1)Cl)OC | C28H28ClNO2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 7-benzyloxy-1-[1-(2-chlorophenyl)cyclopentyl]-6-methoxy-2-methyl-3,4-dihydroisoquinolinium iodide | 10 g | [I-].C(C1=CC=CC=C1)OC1=C(C=C2CC[N+](=C(C2=C1)C1(CCCC1)C1=C(C=CC=C1)Cl)C)OC | InChI=1S/C29H31ClNO2.HI/c1-31-17-14-22-18-26(32-2)27(33-20-21-10-4-3-5-11-21)19-23(22)28(31)29(15-8-9-16-29)24-12-6-7-13-25(24)30;/h3-7,10-13,18-19H,8-9,14-17,20H2,1-2H3;1H/q+1;/p-1
